US06949542B2
3-[3-(2-Methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 3-(2-methyl-pyrimidin-4-yl)-benzoic acid methyl ester [prepared by the following procedure: A mixture of 3-acetyl-benzoic acid (0.82 g, 5 mmol), N-(bis-acetylamino-methyl)-acetamide (0.94 g, 5 mmol) and conc. H2SO4 (0.01 ml) was heated to 155° C. for 6 h. The cooled mixture was diluted with H2O (20 ml) and the precipitate was collected, dried and esterified by heating in MeOH (12 ml)/4N HCl-Et2O (3 ml) for 20 h at 40° C.; white crystals (0.27 g).] (0.80 g, 3.5 mmol by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a yellow solid (1.36 g, crude product).

reactant | 3-(2-methyl-pyrimidin-4-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NC(=NC=C1)C)=O | C13H12N2O2
reactant | 3-acetyl-benzoic acid | 5 mmol, 0.82 g | C(C)(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O3
reactant | N-(bis-acetylamino-methyl)-acetamide | 5 mmol, 0.94 g | C(C)(=O)NC(NC(C)=O)NC(C)=O | C7H13N3O3
reactant | H2SO4 | 0.01 ml | OS(=O)(=O)O | H2O4S
solvent | H2O | 20 ml | O | H2O
product | 3-[3-(2-Methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=NC=C1)C)=O | C18H20N2O3
